US05266713
4-(5-Phenoxypentyl)benzyl alcohol
5-Phenoxypent-1-yne--The process described by the Swiss patent [Chem. Abstr. 93: 167896d) was used. Thus, a mixture of 2.8 g sodium hydride, 5.51 g phenol in 40 mL dry tetrahydrofuran (THF) was stirred at 0° C. under argon until hydrogen evolution ceased. To the resultant solution was added 10 mL dry hexamethylphosphoric triamide (HMPA) followed by a solution containing 5-chloropent-1-yne (4.85 g) in 5 mL THF. The solution was heated at 80° C. for 3 days. The cooled (ambient temperature) mixture was diluted with n-hexane and water. The hexane layer was washed with 2×50 mL portions of water, 1×10 mL 10% potassium carbonate and dried (MgSO4). The evaporated extract was distilled (bp 115°-118° C., 23 mm) to give the title compound (69%) as a colorless oil.

reactant | 5-Phenoxypent-1-yne | O(C1=CC=CC=C1)CCCC#C | C11H12O
reactant | sodium hydride | 2.8 g | [H-].[Na+]
reactant | phenol | 5.51 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen | [H][H] | H2
reactant | 5-chloropent-1-yne | 4.85 g | ClCCCC#C | C5H7Cl
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | THF | 5 mL | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | hexamethylphosphoric triamide | 10 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-(5-Phenoxypentyl)benzyl alcohol | 69% | O(C1=CC=CC=C1)CCCCCC1=CC=C(CO)C=C1 | C18H22O2
